US07041685B2
3-(4-Aminopyrimidin-5-yl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole
The title compound was prepared from 4-amino-pyrimidine-5-amidoxime (50 mg, 0.33 mmol) and 3-chloro-thiophene-2-carbonyl chloride (59 mg, 0.33 mmol), similar to Example 16, and yielded 25 mg (27%) of yellow solid. 1H NMR (CDCl3): 9.18 (s, 1H), 8.69 (s, 1H), 7.66 (d, J=5.22 Hz, 1H), 7.16 (d, J=5.22 Hz, 1H), 5.85 (s, 1H), 3.51 (s, 1H).

reactant | 4-amino-pyrimidine-5-amidoxime | 0.33 mmol, 50 mg | NC1=NC=NC=C1C(N)=NO | C5H7N5O
reactant | 3-chloro-thiophene-2-carbonyl chloride | 0.33 mmol, 59 mg | ClC1=C(SC=C1)C(=O)Cl | C5H2Cl2OS
product | 3-(4-Aminopyrimidin-5-yl)-5-(3-chloro-thiophen-2-yl)-[1,2,4]-oxadiazole | NC1=NC=NC=C1C1=NOC(=N1)C=1SC=CC1Cl | C10H6ClN5OS
